US05877317
Step 1--A mixture of methyl o-iodobenzoate (9.17 g), propargyl alcohol (3.06 ml) and diethyl amine (90 ml) is treated with bis(triphenylphosphine)palladium chloride (1.23 g) and copper iodide (333 mg) and the reaction is stirred at 20°-25° under nitrogen for 18 hrs. The reaction is then filtered through a filter agent and concentrated. The resulting residue is partitioned between water and dichloromethane. The combined organic phases are washed once with saline, dried over magnesium sulfate, filtered and concentrated to an oil. Purification by silica gel chromatography gives methyl o-(1-hydroxy-2-propyn-3-yl)benzoate (CXIX).

reactant | methyl o-iodobenzoate | 9.17 g | IC1=C(C(=O)OC)C=CC=C1 | C8H7IO2
reactant | propargyl alcohol | 3.06 ml | C(C#C)O | C3H4O
catalyst | bis(triphenylphosphine)palladium chloride | 1.23 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 333 mg | [Cu](I)I
solvent | diethyl amine | 90 ml | C(C)NCC | C4H11N
product | methyl o-(1-hydroxy-2-propyn-3-yl)benzoate | OCC#CC1=C(C(=O)OC)C=CC=C1 | C11H10O3
